US07087634B2
Preparation of 1-(3-bromophenyl)-3,5-dimethyl-1H-pyrazole-4-carboxylic acid ethyl ester
Similar to Example 1, equimolar amounts of 3-bromophenylhydrazine hydrochloride and 2-acetyl-3-oxo-butyric acid ethyl ester were combined in a solution of 50% pyridine in ethanol. Analysis showed that the resulting solid was the named product (m.p. 34° C.–35° C.).

reactant | 3-bromophenylhydrazine hydrochloride | Cl.BrC=1C=C(C=CC1)NN
reactant | 2-acetyl-3-oxo-butyric acid ethyl ester | C(C)OC(C(C(C)=O)C(C)=O)=O | C8H12O4
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | ethanol | C(C)O | C2H6O
product | 1-(3-bromophenyl)-3,5-dimethyl-1H-pyrazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NN(C1C)C1=CC(=CC=C1)Br)C | C14H15BrN2O2
